US08835462B2
To a solution of tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (622 mg, 1.64 mmol, 1.00 equiv) in CH2Cl2 (16 mL, 0.10 M) at 0° C. (ice water bath) were added but-3-yn-2-one (0.192 mL, 2.46 mmol, 1.50 equiv) and DABCO (9 mg, 0.08 mmol, 0.05 equiv). The dark solution was removed from the cold bath, stirred at room temperature for 2 h, concentrated, and purified by automated silica gel column chromatography (5-50% EtOAc in hexanes) to provide tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-(((E)-3-oxobut-1-en-1-yl)oxy)-1,5-dioxonan-3-yl)carbamate (617 mg, 84%) as an amorphous white solid: IR (ATR) 1753, 1707, 1631, 1600, 1497, 1367, 1158, 1077, 1021, 956, 909, 730, 700 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.47-7.35 (d, J=12.3 Hz, 1H), 7.35-7.25 (m, 1H), 7.25-7.16 (m, 1H), 7.16-7.04 (m, 2H), 5.84-5.71 (d, J=12.3 Hz, 1H), 5.16-5.07 (d, J=8.2 Hz, 1H), 5.07-4.95 (dq, J=9.3, 6.4 Hz, 1H), 4.72-4.57 (q, J=7.4 Hz, 1H), 4.01-3.85 (dd, J=11.6, 7.5 Hz, 1H), 3.82-3.67 (t, J=9.2 Hz, 1H), 2.14-2.05 (m, 1H), 3.59-3.49 (m, 1H), 3.49-3.40 (m, 1H), 3.36-3.23 (dd, J=11.1, 7.6 Hz, 1H), 2.97-2.86 (dd, J=13.8, 3.7 Hz, 1H), 2.45-2.30 (m, 1H), 2.21-2.14 (s, 3H), 2.14-2.05 (s, 1H), 1.49-1.41 (s, 9H), 1.41-1.36 (d, J=6.4 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 197.25, 172.15, 162.57, 138.45, 129.07, 128.58, 126.52, 108.48, 89.17, 80.33, 73.86, 72.57, 71.38, 52.71, 46.43, 35.29, 28.69, 28.26, 18.73, 14.20; HRMS-ESI (m/z) [M+Na]+ calc'd for C24H33NO7Na, 470.2149. found, 470.2160.

reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 1.64 mmol, 622 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)NC(OC(C)(C)C)=O | C20H29NO6
reactant | but-3-yn-2-one | 2.46 mmol, 0.192 mL, 1.50 equiv | CC(C#C)=O | C4H4O
solvent | CH2Cl2 | 0.10 M, 16 mL | C(Cl)Cl | CH2Cl2
catalyst | DABCO | 0.08 mmol, 9 mg, 0.05 equiv | C1CN2CCN1CC2 | C6H12N2
product | tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-(((E)-3-oxobut-1-en-1-yl)oxy)-1,5-dioxonan-3-yl)carbamate | 617 mg, 84% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O\C=C\C(C)=O)C)=O)NC(OC(C)(C)C)=O | C24H33NO7
